US20010016659A1
Entry 12: 4-Chloropyridine-2-carbonyl chloride HCl salt was reacted with ammonia according to Method A2, Step 3b to form 4-chloro-2-pyridinecarboxamide. 4-Chloro-2-pyridinecarboxamide was reacted with 3-aminophenol according to Method A2, Step 4 using DMAC in place of DMF to give 3-(2-carbamoyl-4-pyridyloxy)aniline. According to Method C2a, 2-methoxy-5-(trifluoromethyl)aniline was reacted with phosgene followed by 3-(2-carbamoyl-4-pyridyloxy)aniline to afford the urea.

reactant | 4-Chloropyridine-2-carbonyl chloride HCl salt | Cl.ClC1=CC(=NC=C1)C(=O)Cl
reactant | ammonia | N | H3N
product | 4-chloro-2-pyridinecarboxamide | ClC1=CC(=NC=C1)C(=O)N | C6H5ClN2O
